US08026257B2
5-Methyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole.
tert-Butyl 4-(((5-methyl-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (12 mg, 0.028 mmol) was dissolved in trifluoroacetic acid (25% in dichloromethane, 4 mL) and stirred at room temperature for 45 min. The reaction was concentrated, and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol to give 9.4 mg (quant.) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 9.43 (bs, 1H), 7.85 (s, 1H), 7.47 (m, 2H), 7.39 (m, 4H), 7.25 (s, 1H), 6.89 (s, 1H), 4.65 (s, 2H), 3.56 (s, 2H), 2.91 (m, 2H), 2.77 (m, 2H), 2.38 (s, 3H), 2.21 (m, 2H), 1.99 (bs, 1H), 1.86 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 144.2, 137.3, 133.8, 129.9, 128.9, 127.1, 126.8, 126.0, 124.1, 120.5, 119.1, 80.6, 72.4, 42.7, 41.7, 33.9, 21.3. Mass spec.: 336.13 (MH)+. Accurate mass spec.: m/z 336.2066 [MH]+, Δ=2.9 ppm.

reactant | tert-Butyl 4-(((5-methyl-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.028 mmol, 12 mg | CC=1C=C2C=NNC2=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C26H33N3O3
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Methyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole | CC=1C=C2C=NNC2=C(C1)COCC1(CCNCC1)C1=CC=CC=C1 | C21H25N3O
